US05831092
9-(4-Acetoxybutyl)-N2 -acetyl-7-benzylguaninium bromide (39.7 g; content 97.5%; 80.8 mmol) was added to a mixed solution of methanol (404 ml) and 7.48 g (1.62 mmol) of 5% Pd/C (water content 54%). The reaction was carried out at 50° C. for 4 h under hydrogen atmosphere (1 atm). After completion of the reaction (confirmed by HPLC), the reaction mixture was filtered through Celite, and the solvent was removed by distillation under reduced pressure. Then, water (130 ml) and 25% NaOH (45.2 g) were added to the residue and stirred overnight at 40° C. The mixture was neutralized by 2N HCl stirred at room temperature for 2 h. The precipitated crystals were filtered and dried at 50° C. under reduced pressure for a yield of 17.33 g of 9-hydroxybutylguanine (97.2% purity, 93.4% yield).

reactant | 9-(4-Acetoxybutyl)-N2 -acetyl-7-benzylguaninium bromide | 80.8 mmol, 39.7 g | [Br-].C(C)(=O)OCCCCN1C=2N=C([NH2+]C(C2N(C1)CC1=CC=CC=C1)=O)NC(C)=O
catalyst | Pd/C | 1.62 mmol, 7.48 g | [Pd] | Pd
solvent | methanol | 404 ml | CO | CH4O
product | 9-hydroxybutylguanine | yield of 17.33 g, 93.4% yield | OCCCCN1C=2N=C(NC(C2N=C1)=O)N | C9H13N5O2
